US06762189B1
Preparation of 4-(1H-5-Indazolylamino)-2-methylthio-5-pyrimidinecarboxylic Acid
To the solution of methanol (80 ml) was added the 4-(1H-5-indazolylamino)-2-methylthio-5-pyrimidinecarboxylic acid ethyl ester (5 g) obtained by the preparation example 1, and the solution was hydrolyzed at 40-50° C. for 1 hr, adding H2O (30 ml) and3N aq. NaOH (15 ml). The reaction mixture was cooled, measured pH 5 at 20° C., slowly adding 3 N aq. HCl. And then the reaction mixture was slowly added H2O (100 ml),stirred at 20° C. for 1 hr, filtered, washed with H2O (30 ml), and obtained a solid product. The solid product was dried at 50° C. in vacuo to obtain the desired compound (4.44 g, 97%).

reactant | methanol | 80 ml | CO | CH4O
reactant | 4-(1H-5-indazolylamino)-2-methylthio-5-pyrimidinecarboxylic acid ethyl ester | 5 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)NC=1C=C2C=NNC2=CC1 | C15H15N5O2S
reactant | NaOH | 15 ml | [OH-].[Na+]
reactant | HCl | 3 N | Cl | ClH
solvent | H2O | 100 ml | O | H2O
solvent | H2O | 30 ml | O | H2O
product | 4-(1H-5-Indazolylamino)-2-methylthio-5-pyrimidinecarboxylic Acid | 4.44 g, 97% | N1N=CC2=CC(=CC=C12)NC1=NC(=NC=C1C(=O)O)SC | C13H11N5O2S
